data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_658811_1,[C:1]([N:2](/[C:4](=[N:7]/[O:6][H:9])[H:12])[O:5][H:8])([N:3]([H:10])[H:11])([H:13])[H:14]>>[C:1]([N:3]([H:10])[H:11])([N:7](/[C:4](=[N:2]/[O:5][H:8])[H:12])[O:6][H:9])([H:13])[H:14],44.82107000001619
MR_401733_1,[C:1]([N:2]([C:3](=[C:4]([H:11])[H:12])[H:7])[N:5][O:6])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[C:4]([N:5]=[O:6])([H:11])[H:12])[H:7])([H:8])([H:9])[H:10],41.96908250004725
MR_596091_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:6](/[O:8][H:11])[H:13])([C:5](=[O:9])[H:12])[O:7][H:10]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([O:7][H:10])[C:4]([C:3]([H:17])([H:18])[H:19])([C:5](=[O:9])[H:12])[C:6]1([O:8][H:11])[H:13],71.71258250000022
MR_392498_1,[C:1]1([C:2]([C:4]([H:14])([H:15])[H:17])([C:5]([H:16])([H:18])[H:19])[H:10])([H:9])[N:6]([C:3]([H:11])([H:12])[H:13])[C:7]1=[O:8]>>[C:1]([C:2]([C:4]([H:14])([H:15])[H:17])([C:5]([H:16])([H:18])[H:19])[H:10])([N:6]=[C:3]([H:11])[H:13])([C:7](=[O:8])[H:12])[H:9],34.0494049999964
MR_321527_1,[n:1]1([O:7][H:9])[c:2]([N:4]([H:10])[H:11])[n:8][c:6]([H:14])[c:3]1[N:5]([H:12])[H:13]>>[N:1](=[C:3](\[N:5]([H:12])[H:13])[C@@:6]1([H:14])[C:2]([N:4]([H:10])[H:11])=[N:8]1)\[O:7][H:9],66.61100750000386
MR_131866_1,[C:1]([N:4]([C:5]([O:8][H:10])=[O:9])/[C:6]([C:2]([H:15])([H:16])[H:17])=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[C:6](/[C:2]([H:15])([H:16])[H:17])[C@@:7]([C:3]([H:18])([H:19])[H:20])([C:5]([O:8][H:10])=[O:9])[H:11])([H:12])([H:13])[H:14],57.09371499995598
MR_82608_2,[C:1]1([C:4]([H:13])([H:14])[H:15])([O:8][N:7]([H:9])[H:10])[C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[C:3]1([H:11])[H:12]>>[C:1]([C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[O:8][N:7]([H:9])[H:10])(=[C:3]([H:11])[H:12])[C:4]([H:13])([H:14])[H:15],62.31702500003735
MR_324965_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[N:8]/[N:7]=[C:3](\[N:5]([H:10])[H:11])[O:6][H:9])([H:12])([H:13])[H:17]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:3]([N:5]([H:10])[H:11])([O:6][H:9])[N:7]=[N:8]1)([H:12])([H:13])[H:17],60.82420249998975
MR_488979_1,[C:1]1([C:5](=[C:6]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])[N:7]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[O:8]1>>[C:1]1([C:5](=[C:6]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])[N:7]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[O:8]1,62.42683749997411
MR_326727_0,[C:1]([N:2](/[C:3](=[C:4](/[O:5][H:8])[H:11])[H:10])/[N:6]=[N:7]/[H:9])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:3](/[C:4]([O:5][H:8])(/[N:6]=[N:7]/[H:9])[H:11])[H:10])([H:12])([H:13])[H:14],32.10101750002892
MR_580433_1,[C:1](/[C:3]([O:7][H:10])=[N:8]\[N:2]([C:4](=[C:5]([H:15])[H:16])[H:11])[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:11])([O:7][H:10])/[N:8]=[N:2]/[O:6][H:9])([H:12])([H:13])[H:14],64.77807999999456
MR_242562_0,[C:1](/[C:2]([N:4]([H:10])[H:11])=[C:5](/[N:7]=[N:6]/[N:3]([H:8])[H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]1([N:4]([H:10])[H:11])[C:5]([H:12])=[N:7][N:6]1[N:3]([H:8])[H:9])([H:13])([H:14])[H:15],45.71651249996691
MR_66227_0,[C:1]1([C:2]([H:14])([H:15])[H:16])([H:8])[C:3]([N:5]([H:11])[H:12])([O:6][N:4]([H:9])[H:10])[N:7]1[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:3]([O:6][N:4]([H:9])[H:10])=[N:7]\[H:13])([N:5]([H:11])[H:12])[H:8],60.01786499995674
MR_356981_0,[C:1]1(=[N:5]/[H:9])\[C:2]([C:3](=[O:7])[H:11])([C:4](=[O:8])[H:12])[N:6]1[H:10]>>[C:1](/[C:2]([C:3](=[O:7])[H:11])=[N:6]\[H:10])([C:4](=[O:8])[H:12])=[N:5]/[H:9],55.38064000003644
MR_406261_0,[C:1]([C:3]([H:13])([H:14])[H:17])([C:4]([H:15])([H:16])[H:18])([C:5]([O:7][H:9])=[O:8])[O:6][C:2]([H:10])([H:11])[H:12]>>[C:1]1([C:3]([H:13])([H:14])[H:17])([C:4]([H:15])([H:16])[H:18])[C:5]([O:6][C:2]([H:10])([H:11])[H:12])([O:7][H:9])[O:8]1,65.41060000000272
MR_245334_1,[C@@:1]([C:3]([H:16])([H:17])[H:18])([N:6]([C:2]([H:13])([H:14])[H:15])[N:8]([H:11])[H:12])([N:9]=[C:7]([C:4]([H:20])([H:21])[H:22])[C:5]([H:19])([H:23])[H:24])[H:10]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[N:9]/[C:7]([C:4]([H:20])([H:21])[H:22])([C:5]([H:19])([H:23])[H:24])[N:6]([C:2]([H:13])([H:14])[H:15])[N:8]([H:11])[H:12])[H:10],58.41271999997872
MR_482483_1,[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([O:7][H:9])[N:8]=[C:6]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([H:10])[H:11]>>[C:1]([C:4]([H:18])([H:19])[H:20])([C:6]([C:2]([H:12])([H:13])[H:17])([C:3]([H:14])([H:15])[H:16])/[N:8]=[N:5]/[O:7][H:9])([H:10])[H:11],72.85275000004646
MR_267931_1,[C@:1]1([C:7]([C:5]([H:17])([H:18])[H:19])=[O:8])([H:9])[C@@:2]([C:4]([H:14])([H:15])[H:16])([H:10])[N:6]1[C:3]([H:11])([H:12])[H:13]>>[C:1](\[C@@:2]([C:4]([H:14])([H:15])[H:16])([C:7]([C:5]([H:17])([H:18])[H:19])=[O:8])[H:10])(=[N:6]\[C:3]([H:11])([H:12])[H:13])[H:9],63.49986250001152
MR_233586_0,[C:1]([C:3](=[C:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[O:6][H:7])([H:12])([H:13])[H:14]>>[C:1]([C:3](/[C:2]([N:4]([H:8])[H:9])=[N:5]/[H:10])([O:6][H:7])[H:11])([H:12])([H:13])[H:14],51.47068749999207
